US05488149
2.45 g of magnesium (turnings) was added to 100 ml of ethyl ether, and a few drops of 1,2-dibromoethane were added thereto to activate magnesium. Then, 100 ml of an ethyl ether solution of 19.2 g of 3,4-dichlorobenzyl chloride was dropwise added thereto over a period of 3 hours with stirring under cooling with ice. Then, 50 ml of an ethyl ether solution of 6.11 g of 2-(tert-butyldimethylsilyloxy)propionaldehyde (which was produced by silylating ethyl 2-hydroxypropionate with tert-butyldimethylchlorosilane, followed by reducing with diisobutylaluminum hydride) was dropwise added to this solution over a period of 30 minutes with stirring under cooling with ice, and the mixture was stirred at the same temperature for 1 hour. Then, a saturated ammonium chloride aqueous solution was added thereto, and the mixture was further stirred at room temperature for 10 minutes. The organic layer was collected by separation, washed with a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. The drying agent was separated by filtration, and then the solvent was distilled off under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 3.82 g (yield: 33%) of 3-(tert-butyldimethylsilyloxy)-1-(3,4-dichlorophenyl)-2-butanol.

reactant | magnesium | 2.45 g | [Mg] | Mg
reactant | 3,4-dichlorobenzyl chloride | 19.2 g | ClC=1C=C(CCl)C=CC1Cl | C7H5Cl3
reactant | 2-(tert-butyldimethylsilyloxy)propionaldehyde | 6.11 g | [Si](C)(C)(C(C)(C)C)OC(C=O)C | C9H20O2Si
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | 1,2-dibromoethane | a few drops | BrCCBr | C2H4Br2
solvent | ethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
product | 3-(tert-butyldimethylsilyloxy)-1-(3,4-dichlorophenyl)-2-butanol | 3.82 g, yield: 33% | [Si](C)(C)(C(C)(C)C)OC(C(CC1=CC(=C(C=C1)Cl)Cl)O)C | C16H26Cl2O2Si
